US04999455
Preparation of monomethylolacrylamidomethyleneurea
11.34 g of a 37% strength aqueous solution of formaldehyde, 40 g of water, 20 g of acrylamidomethyleneurea, 50 mg of hydroquinone methyl ether and 0.2 g of triethylamine are introduced into a 250-ml reactor. The reaction mixture is heated for 1 hour to 60° C.

reactant | formaldehyde | C=O | CH2O
reactant | water | 40 g | O | H2O
reactant | acrylamidomethyleneurea | 20 g | C(C=C)(=O)NC=NC(=O)N | C5H7N3O2
reactant | hydroquinone methyl ether | 50 mg | COC1=CC=C(O)C=C1 | C7H8O2
solvent | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
product | monomethylolacrylamidomethyleneurea | C(O)C=CC(=O)NC=NC(=O)N | C6H9N3O3
